US07572816B2
4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-benzoic acid
To a solution of 4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalene-2carbonyl)-benzoic acid methyl ester (820 mg, 2.25 mmol) in 10 mL of THF and 10 mL of MeOH was added NaOH (22 mL of 1N solution, 22 mmol). The mixture was stirred at room temperature overnight. The mixture was acidified with HCl (23 mL of 1N solution, 23 mmol). The product was extracted with CH2Cl2 twice and EtOAc twice. The combined organic fraction was dried over Na2SO4, filtered and was used in the next step without purification.

reactant | 4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalene-2carbonyl)-benzoic acid methyl ester | 2.25 mmol, 820 mg | COC(C1=CC=C(C=C1)C(=O)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C)=O | C24H28O3
reactant | NaOH | 22 mmol, 1N, 22 mL | [OH-].[Na+]
reactant | HCl | 23 mmol, 1N, 23 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(3,5,5,8,8-Pentamethyl-5,6,7,8-tetrahydro-naphthalene-2-carbonyl)-benzoic acid | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C(=O)C1=CC=C(C(=O)O)C=C1 | C23H26O3
